US06924259B2
DMAEMA/EA 30/70
To a 2 liter glass vessel equipped with; reflux condenser, stirrer, means of temperature control, 300 g deionized water and 300 g propan-2-ol were charged then heated to a gentle reflux. A monomer mixture of dimethylaminoethyl methacrylate (134.6 g) and ethyl acrylate (200 g) was fed into the reactor over an approximate time frame of 3 hours. Sodium persulphate solution (3.4 g in 125 g of water) was fed concurrently with the monomer over a similar time period. When feeds were a propan-2-ol azeotrope was then distilled from the reactor, followed by neutralization with acetic acid (41.2 g).

reactant | water | O | H2O
reactant | dimethylaminoethyl methacrylate | 134.6 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | ethyl acrylate | 200 g | C(C=C)(=O)OCC | C5H8O2
reactant | Sodium persulphate | 3.4 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | propan-2-ol | 300 g | CC(C)O | C3H8O
product | DMAEMA EA | CC(=C)C(=O)OCCN(C)C.CC(OCC)=O | InChI=1S/C8H15NO2.C4H8O2/c1-7(2)8(10)11-6-5-9(3)4;1-3-6-4(2)5/h1,5-6H2,2-4H3;3H2,1-2H3
